US07132425B2
A mixture of potassium ferricyanide (738 mg, 2.24 mmol), potassium carbonate (310 mg, 2.24 mmol), and (DHQ)2PHAL (11.7 mg, 0.015 mmol) was treated with a solution of water/tert-butyl alcohol (15 mL, 1:1) and stirred at 25° C. to give a clear solution. The reaction mixture was then treated with a 0.2M solution of osmium tetroxide in toluene (37.4 μL). The reaction mixture was cooled to 0° C. and then was treated with 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2-methylpropenyl)-pyrazin-2-yl]-propionamide (345 mg, 0.748 mmol) followed by the addition of methane sulfonamide (71 mg, 0.747 mmol). The mixture was stirred at 0° C. for 18 h until all the olefin was reacted. The mixture was diluted with ethyl acetate (30 mL) and treated with sodium sulfite (1.0 g). The solution was extracted with ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1/5 hexanes/ethyl acetate) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-2-methyl-propyl)-pyrazin-2-yl]-propionamide (255 mg, 69%) as an off-white foam: (ES)+-HRMS m/e calcd for C23H30ClN3O5S (M+H)+ 496.1668, found 496.1657.

reactant | potassium carbonate | 2.24 mmol, 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2-methylpropenyl)-pyrazin-2-yl]-propionamide | 0.748 mmol, 345 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)C=C(C)C)CC1CCCC1 | C23H28ClN3O3S
reactant | methane sulfonamide | 0.747 mmol, 71 mg | CS(=O)(=O)N | CH5NO2S
reactant | sodium sulfite | 1.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 37.4 μL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | potassium ferricyanide | 2.24 mmol, 738 mg | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
catalyst | (DHQ)2PHAL | 0.015 mmol, 11.7 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
solvent | water tert-butyl alcohol | 15 mL | O.C(C)(C)(C)O
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(1(S),2-dihydroxy-2-methyl-propyl)-pyrazin-2-yl]-propionamide | 255 mg, 69% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)[C@@H](C(C)(C)O)O)CC1CCCC1 | C23H30ClN3O5S
